US05387593
Butyl lithium (47.5 ml of 2.22M solution, 105.6 mmole) was added slowly to a solution of pentamethyldiethylenetriamine (15 ml) and 4-fluoroanisole (12.61 g, 0.1 mole) in THF (150 ml) at -70° C. The solution was stirred for 2 hr at -75° C. and a solution of pyridine-4-aldehyde (9.55 ml, 0.1 mole) in THF was added at -75° C. The mixture was allowed to warm to 25° C. slowly and then quenched with ammonium chloride solution. The mixture was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with water and 3N hydrochloric acid. The acid washes were then basified with sodium hydroxide and extracted with ether and the ether solution concentrated in vacuo. The crude product was recrystallized from 80% ethanol to give (2-fluoro-5-methoxy-phenyl)-4-pyridylmethanol as a white powder (12.22 g+3.12 g second crop, 65.8% total yield).

reactant | Butyl lithium | 105.6 mmole, 2.22M, 47.5 ml | C(CCC)[Li]
reactant | pentamethyldiethylenetriamine | 15 ml | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | 4-fluoroanisole | 0.1 mole, 12.61 g | FC1=CC=C(C=C1)OC | C7H7FO
reactant | pyridine-4-aldehyde | 0.1 mole, 9.55 ml | N1=CC=C(C=C1)C=O | C6H5NO
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (2-fluoro-5-methoxy-phenyl)-4-pyridylmethanol | FC1=C(C=C(C=C1)OC)C(O)C1=CC=NC=C1 | C13H12FNO2
